US05763489
A solution of diethyl azodicarboxylate (871 mg) in tetrahydrofuran (4 ml) was added slowly to a stirred solution of (1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methanol (961 mg), phthalimide (736 mg), and triphenyiphosphine (1.31 g) in tetrahydrofuran (10 ml) at room temperature and the resulting mixture was stirred at the same temperature for 24 hours. The reaction mixture was evaporated in vacuo and the residue was chromatographed (toluene) over silica gel. The eluate was evaporated in vacuo and the residue was triturated with n-hexane to afford N-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]phthalimide (888 mg) as a colorless powder. mp: 143°-144° C.

reactant | diethyl azodicarboxylate | 871 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methanol | 961 mg | COC1=C2CCC(CC2=CC=C1)CO | C12H16O2
reactant | phthalimide | 736 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenyiphosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]phthalimide | 888 mg | COC1=C2CCC(CC2=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H19NO3
